US05026859
PREPARATION OF 5,8-DIMETHOXY-3-FORMYL-2-METHYLQUINOLINE
A solution of ethyl 5,8-dimethoxy-2-methylquinoline-3-carboxylate (4.0 g, 0.0145 mol) in tetrahydrofuran is added to a slurry of lithium aluminum hydride (0.72 g, 0.019 mol) in ether. The reaction is stirred for 16 hours at 50° C. After cooling, the reaction is quenched by the sequential addition of water and 15% aqueous sodium hydroxide. Additional ether and anhydrous magnesium sulfate are added and the reaction mixture is filtered. The product is purified by chromatography using silica gel and ethyl acetate in hexanes as eluant. The resulting alcohol (1.50 g) is dissolved in methylene chloride and added to a slurry of pyridinium chlorochromate in methylene chloride. The resulting solution is stirred for 3 hours at room temperature. Diatomaceous earth is added, the reaction mixture is diluted with ether and filtered. The filtrate is concentrated in vacuo and the product purified by chromatography using silica gel and ethyl acetate in hexanes as eluant to yield the title compound (0.10 g, 5%) as a yellow solid, identified by IR and NMR spectral analysis.

reactant | ethyl 5,8-dimethoxy-2-methylquinoline-3-carboxylate | 0.0145 mol, 4.0 g | COC1=C2C=C(C(=NC2=C(C=C1)OC)C)C(=O)OCC | C15H17NO4
reactant | lithium aluminum hydride | 0.019 mol, 0.72 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 5,8-DIMETHOXY-3-FORMYL-2-METHYLQUINOLINE | 0.10 g, 5% | COC1=C2C=C(C(=NC2=C(C=C1)OC)C)C=O | C13H13NO3
